US07064215B2
Synthesis of 5-Fluoro-3-[5-fluoro-6-(4-isopropyl-piperazin-1-yl)-1H-benzoimidazol-2-yl]-1H-indazole
The title compound was synthesized as described in Example 4 from 4-fluoro-5-(4-isopropyl-piperazin-1-yl)-benzene-1,2-diamine and 5-fluoro-1H-indazole-3-carbaldehyde. LC/MS (m/z) 397.5 (MH+), Rt 2.78 minutes.

reactant | 4-fluoro-5-(4-isopropyl-piperazin-1-yl)-benzene-1,2-diamine | FC=1C=C(C(=CC1N1CCN(CC1)C(C)C)N)N | C13H21FN4
reactant | 5-fluoro-1H-indazole-3-carbaldehyde | FC=1C=C2C(=NNC2=CC1)C=O | C8H5FN2O
product | 5-Fluoro-3-[5-fluoro-6-(4-isopropyl-piperazin-1-yl)-1H-benzoimidazol-2-yl]-1H-indazole | FC=1C=C2C(=NNC2=CC1)C1=NC2=C(N1)C=C(C(=C2)F)N2CCN(CC2)C(C)C | C21H22F2N6
